US03960891
A mixture of 6.9 g of crude 8-(2,3-epoxy propyloxy) thiochroman prepared as described above, 26 ml of isopropylamine and 53 ml of dry dioxan were refluxed for 20 hours. The reaction mixture was then evaporated to dryness, under vacuum. The residue was taken up with chloroform and diluted hydrochloric acid. The acid aqueous phase was made alkaline with an aqueous sodium hydroxide solution. There were obtained 4.6 g of dl 8-(3-isopropylamino-2-hydroxy propyloxy) thiochroman, melting (K) at 90° to 92°C, which recrystallized in cyclohexane, melted at 91 to 92°C. 3.9 g of this base were dissolved in 20 ml of ethanol and a solution of dry hydrochloric gas in ether was added.

reactant | 8-(2,3-epoxy propyloxy) thiochroman | 6.9 g | O1C(COC=2C=CC=C3CCCSC23)C1 | C12H14O2S
reactant | isopropylamine | 26 ml | C(C)(C)N | C3H9N
solvent | dioxan | 53 ml | O1CCOCC1 | C4H8O2
product | 8-(3-isopropylamino-2-hydroxy propyloxy) thiochroman | 4.6 g | C(C)(C)NCC(COC=1C=CC=C2CCCSC12)O | C15H23NO2S
